Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fatigue and palpitations at rest 
pre-op for AVR
 
Major Surgical or Invasive Procedure:
___  :extraction of teeth #1,4,5,11,21,32 and cyst removal from 
right side of the mandible.

 
History of Present Illness:
___ year old who presents for
preoperative admission for bridge from coumadin to heparin with
atrial fibrillation diagnosed in ___ and incidental finding
of aortic stenosis.  Underwent surgical evaluation for aortic
valve replacement including cardiac catheterization that 
revealed
no coronary artery disease and dental consultation that she 
needs
six teeth extracted.  

 
Past Medical History:
Severe Aortic ___ 0.7cm2), 
Hypertension, 
Paroxysmal atrial fibrillation, 
Left Ventricular hypertrophy, 
Arthritis,  
current tobacco use  

 
Social History:
___
Family History:
Family History: father died ___ MI

 
Physical Exam:
Pulse: 63   Resp: 18 O2 sat: 98%
B/P  ___ 
Height: ___    Weight: 144.8 Lbs

General: no acute distress 
Neuro: A&Ox3, non focal exam
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x] MMM
Neck:  Supple [x] Full ROM [x] no JVD, 
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur: ___ SEM
Abdomen: Soft[x] non-distended x] non-tender[x] +bowel sounds 
[x]
Extremities: Warm [x] well-perfused [x]  Edema: none
Varicosities: None [x]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 1+  Left: 1+
Radial       Right: 2+  Left: 2+

Carotid Bruit    Right: murmur vs bruit    Left: murmur vs bruit

 
Pertinent Results:
Admission labs
___ 06:18PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 06:18PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-SM
___ 06:18PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:15PM   ___ PTT-21.9* ___
___ 07:15PM   PLT COUNT-326
___ 07:15PM   WBC-7.7 RBC-4.78 HGB-14.0 HCT-41.0 MCV-86 
MCH-29.2 MCHC-34.0 RDW-14.3
___ 07:15PM   %HbA1c-5.8 eAG-120
___ 07:15PM   ALBUMIN-4.6 CALCIUM-9.9 PHOSPHATE-4.5 
MAGNESIUM-2.1
___ 07:15PM   CK-MB-2 cTropnT-<0.01
___ 07:15PM   LIPASE-22
___ 07:15PM   ALT(SGPT)-23 AST(SGOT)-16 LD(LDH)-131 
CK(CPK)-45 ALK PHOS-89 AMYLASE-60 TOT BILI-0.4
___ 07:15PM   GLUCOSE-120* UREA N-22* CREAT-0.9 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-28 ANION GAP-13
Discharge labs
___ 04:50AM BLOOD WBC-4.4 RBC-4.60 Hgb-13.1 Hct-39.6 MCV-86 
MCH-28.6 MCHC-33.2 RDW-14.1 Plt ___
___ 11:17AM BLOOD PTT-58.3*
___ 04:50AM BLOOD ___ PTT-54.4* ___
___ 04:50AM BLOOD Glucose-112* UreaN-9 Creat-0.6 Na-141 
K-3.7 Cl-103 HCO3-29 AnGap-13
___ 04:50AM BLOOD Calcium-9.7 Phos-3.6 Mg-2.0
  
Radiology Report CHEST (PA & LAT) Study Date of ___ 3:04 ___ 

UNDERLYING MEDICAL CONDITION: ___ year old woman with Aortic 
stenosis  
Final Report 
CHEST: The heart is marginally enlarged. The lung fields are 
clear. No 
evidence of failure. Costophrenic angles are sharp. 
      
Radiology Report CAROTID SERIES COMPLETE Study Date of ___ 
2:48 ___ 
 -no carotid stenosis
 
Brief Hospital Course:
Patient was adnitted for hepirin bridge while awaiting Aortic 
valve replacement. During the preop workup it was noted that she 
needed dental extractions. She was brought to the operating room 
for extractions on ___. Following her extractions she spiked a 
fever to 102.3 and it was decided to delay her surgery until she 
had time to recover from her fever and extractions. She was 
restarted on Heparin and Coumadin.
She was discharged home on ___. The patient was advised to go 
home with Lovenox bridge for Atrial fibrillation. She did not 
want to learn to give herself injections and was willing to 
accept the risk of resuming Coumadin w/o Lovenox bridge.
She will followup with Dr ___ office ___ call her in 
the next several days to confirm new date for surgery and any 
further testing that may be indicated.
 
Medications on Admission:
Metoprolol 50", Wellbutrin XL 150', Warfarin 5 S/T/W/T/S, 7.5mg 
___ 
 
Discharge Medications:
1. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*0*
2. hydrocodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
3. mupirocin calcium 2 % Ointment Sig: One (1) Appl Nasal BID (2 
times a day) for 1 days.
Disp:*qs 1 day supply* Refills:*0*
4. clindamycin HCl 300 mg Capsule Sig: Two (2) Capsule PO every 
eight (8) hours for 5 days.
Disp:*30 Capsule(s)* Refills:*0*
5. warfarin 1 mg Tablet Sig: resume pre admission schedule 
Tablet PO once a day: resume pre-admission schedule:
5mg Q S/T/W/T/S
7.5mg Q M/F.  
6. Wellbutrin XL 150 mg Tablet Sustained Release 24 hr Sig: One 
(1) Tablet Sustained Release 24 hr PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p multiple teeth extractions
PMH:Severe Aortic ___ 0.7cm2), Hypertension, Paroxysmal 
atrial fibrillation, Left Ventricular hypertrophy, Arthritis,  
current tobacco  

 
Discharge Condition:
good

 
Discharge Instructions:
Take all medication as directed
Oral rinses as directed by oral surgeon
 
Followup Instructions:
___